### PR TITLE
[Merged by Bors] - feat: objects representing functors to `CommMon` satisfy `IsCommMon`

### PR DESCRIPTION
**Pull request by Kiolt**
From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Yoneda.lean [hunk 1]
```diff
@@ -200,3 +200,23 @@ lemma essImage_yonedaMon :
...
+  letI := Mon_Class.ofRepresentableBy X (F ⋙ (forget₂ CommMonCat MonCat)) α
+  refine ⟨?_⟩
+  change (β_ X X).hom ≫ α.homEquiv.symm (α.homEquiv (fst X X) * α.homEquiv (snd X X))
+      = α.homEquiv.symm (α.homEquiv (fst X X) * α.homEquiv (snd X X))
+  apply α.homEquiv.injective
+  simp only [α.homEquiv_comp, Equiv.apply_symm_apply]
+  simp only [Functor.comp_map, ConcreteCategory.forget_map_eq_coe, map_mul]
+  simp only [← ConcreteCategory.forget_map_eq_coe, ← Functor.comp_map, ← α.homEquiv_comp]
+  rw [_root_.mul_comm]
+  simp
```
Comment (Paul-Lez) [inline Mathlib/CategoryTheory/Monoidal/Yoneda.lean:220]: Here's one possible golf of the proof (feel free to ignore if you don't like it:)):
```suggestion
  letI : Mon_Class X := Mon_Class.ofRepresentableBy X (F ⋙ (forget₂ CommMonCat MonCat)) α
  have : μ = α.homEquiv.symm (α.homEquiv (fst X X) * α.homEquiv (snd X X)) := rfl 
  exact ⟨by simp_rw [this, ←α.homEquiv.apply_eq_iff_eq, α.homEquiv_comp, Functor.comp_map, 
    ConcreteCategory.forget_map_eq_coe, Equiv.apply_symm_apply, map_mul, 
    ←ConcreteCategory.forget_map_eq_coe, ←Functor.comp_map, ← α.homEquiv_comp, op_tensorObj, 
    Functor.comp_obj, braiding_hom_fst, braiding_hom_snd, _root_.mul_comm]⟩
```
Ideally, the `have` statement would just be a projection lemma generated by adding `@[simps]` to `Mon_Class.ofRepresentableBy`, but trying to use that in the current proof created issues that I haven't quite been able to debug.

Comment (Kiolt) [reply Mathlib/CategoryTheory/Monoidal/Yoneda.lean:220]: It's a pretty nice golf, thanks!

File: Mathlib/CategoryTheory/Monoidal/Yoneda.lean [hunk 2]
```diff
@@ -200,3 +200,19 @@ lemma essImage_yonedaMon :
     exact ⟨Mon_.mk' X, ⟨yonedaMonObjMon_Class.ofRepresentableBy X F e⟩⟩
 
 end Mon_
+
+section CommMon_
+
+/-- If `X` represents a presheaf of commutative groups, then `X` is a commutative group object. -/
+lemma IsCommMon.ofRepresentableBy (F : Cᵒᵖ ⥤ CommMonCat)
```
Comment (Paul-Lez) [inline Mathlib/CategoryTheory/Monoidal/Yoneda.lean:207]:
```suggestion
lemma IsCommMon.ofRepresentableBy {F : Cᵒᵖ ⥤ CommMonCat}
```

Comment (Paul-Lez) [inline Mathlib/CategoryTheory/Monoidal/Yoneda.lean:207]:
```suggestion
lemma IsCommMon.ofRepresentableBy {F : Cᵒᵖ ⥤ CommMonCat}
```

File: Mathlib/CategoryTheory/Monoidal/Yoneda.lean [hunk 3]
```diff
@@ -200,3 +200,19 @@ lemma essImage_yonedaMon :
...
+    (α : (F ⋙ forget _).RepresentableBy X) :
+    letI := Mon_Class.ofRepresentableBy X (F ⋙ (forget₂ CommMonCat MonCat)) α
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Yoneda.lean:209]:
```suggestion
    letI := Mon_Class.ofRepresentableBy X (F ⋙ forget₂ CommMonCat MonCat) α
```

File: Mathlib/CategoryTheory/Monoidal/Yoneda.lean [hunk 4]
```diff
@@ -200,3 +200,19 @@ lemma essImage_yonedaMon :
...
+    IsCommMon X := by
+  letI : Mon_Class X := Mon_Class.ofRepresentableBy X (F ⋙ (forget₂ CommMonCat MonCat)) α
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Yoneda.lean:211]:
```suggestion
  letI : Mon_Class X := Mon_Class.ofRepresentableBy X (F ⋙ forget₂ CommMonCat MonCat) α
```

File: Mathlib/CategoryTheory/Monoidal/Yoneda.lean (hunk 2 above)
Comment (Kiolt) [reply Mathlib/CategoryTheory/Monoidal/Yoneda.lean:207]: I think that functor should stay explicit because it actually cannot be inferred from the return type

**Comment by joelriou** [comment]
Thanks!

bors merge
